US06998407B2
A solution of 4-amino-3-hydroxybenzoic acid (10.0 g) in 85% formic acid (60 mL) was heated at reflux for 3 h and then cooled to room temperature. The precipitated solid was filtered, washed with methanol, and dried under vacuum to produce 4-carbonylamino-3-hydroxybenzoic acid. A portion of this material (1.00 g) and zinc chloride (3.76 g) were suspended in m-xylene (135 L), and treated with 2 drops of concentrated sulfuric acid. The reaction mixture was azeotroped for 8 h, cooled to room temperature, and treated with water (20 mL). The resulting solid was collected by filtration, washed with water, and dried under high vacuum to afford benzoxazole-6-carboxylic acid. A portion of this material (0.80 g) was suspended in anhydrous dichloromethane (30 mL) under a nitrogen atmosphere and treated with oxalyl chloride (12.3 mL of a 2M solution in dichloromethane) and 1 drop of DMF. This suspension was stirred at room temperature for 16 h. The solvent was evaporated under reduced pressure. The residue was suspended in dichloromethane (20 mL) and poured into an ice-cold 2M solution of ammonia in methanol (122 mL). The mixture was stirred at 0° C. for 1 h, and concentrated under reduced pressure. The solid residue was washed with dichloromethane and water, and dried under high vacuum to afford benzoxazole-6-carboxamide. A portion of this material (80 mg) was dried by azeotropic distillation with toluene (5.3 mL) and treated with 3-chlorophenyl isocyanate (83.3 mg). The mixture was heated at reflux for 6 h, allowed to cool to room temperature, and treated with methanol (5 mL). The precipitated solid was collected by filtration, washed with methanol and dichloromethane, and dried under high vacuum to yield the title compound. 1H NMR (DMSO-d6) δ 7.18 (d, 1H, J=8.0 Hz), 7.39 (t, 1H, J=8.0 Hz), 7.49 (d, 1H, J=8.0 Hz), 7.86 (d, 1H, J=1.6 Hz), 7.97 (d, 1H, J=8.4 Hz), 8.09 (dd, 1H, J=8.4, 1.6 Hz), 8.50 (s, 1H), 8.98 (s, 1H), 10.90 (s, 1H), 11.24 (s, 1H). MS (ESI) m/z 314, 316.

reactant | 4-amino-3-hydroxybenzoic acid | 10.0 g | NC1=C(C=C(C(=O)O)C=C1)O | C7H7NO3
reactant | formic acid | 60 mL | C(=O)O | CH2O2
product | 4-carbonylamino-3-hydroxybenzoic acid | C(=O)=NC1=C(C=C(C(=O)O)C=C1)O | C8H5NO4
